US07256215B2
To a solution of 4.62 g of ethyl[4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-2′-methanesulfonyl biphenyl-3-yloxy]acetate in 40 mL of N,N-dimethylformamide was added 1.03 g of lithium chloride, and the mixture was stirred at 140° C. for 2 hours. After being cooled to room temperature, the reaction mixture was poured into a mixture of 60 mL of ethyl acetate, 6 mL of toluene, and 32 mL of 1 mol/L hydrochloric acid. The organic layer was separated, and washed with 1 mol/L hydrochloric acid and brine. The organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: acetic acid-ethyl acetate) to give 3.67 g of ethyl [4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate as a colorless amorphous.

reactant | ethyl[4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-2′-methanesulfonyl biphenyl-3-yloxy]acetate | 4.62 g | C(C)OC(COC=1C=C(C=CC1CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC)C1=C(C=CC=C1)S(=O)(=O)C)=O | C27H28N2O8S2
reactant | lithium chloride | 1.03 g | [Cl-].[Li+]
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 mol/L, 32 mL | Cl | ClH
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate | 3.67 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)OCC)O | C26H26N2O8S2
